Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / Sulfa (Sulfonamides)
 
Attending: ___.
 
Chief Complaint:
syncope
 
Major Surgical or Invasive Procedure:
Pacemaker placement
Cardiac catheterization

 
History of Present Illness:
___ year old woman with a prior CVA (no residual), past hx of DVT 
on Coumadin, no prior cardiac history presenting with syncope 
and 2nd degree AV block (Type II). The patient reports that she 
was in her usual state of health yesterday until going to bed 
last night. During the night she had a ___ min episode of 
chest pain which she described as an ache that spanned from one 
armpit to the other. She took some Tylenol and this resolved (no 
associated SOB, diaphoresis, +radiation to back, no nausea). She 
awoke in the morning feeling intermittently lightheaded with one 
additional episode of chest pain (similar character but lasting 
<10min). She later went to drop off some papers at her 
accountant's office and recalls starting to feel lightheaded 
again when stepping off the elevator. She remembers feeling 
slightly nauseased, SOB, but not diaphoretic with blurry vision. 
The last thing that she rememebers is reaching for the doorknob 
and then had EMS standing over her. Per report she fell forward 
and hit her head on the desk with abrasions of the bridge of her 
nose. She was taken to ___ where she was noted 
to be in AV block with a rate in the ___ and given atropine 
0.5mg IV with improvement to HR 80's to NSR wit PAC's. EKG with 
inferior ST elevation, so she was transferred to ___ for 
urgent cardiac catheterization. She had no recurrence of chest 
pain while in the ER. Treated with 600mg plavix and Aspirin 81mg 
x 4. Per report CT Head was performed and negative for ICH 
(awaiting faxed report).  
.  
Upon transfer to ___ she was brought emergently to cardiac 
catheterization for evaluation of ST-segment elevations on EKG. 
Her catherization showed no significant coronary artery disease. 
 
.  
Upon arrival to the floor the patient had persistent ___ 
headache and felt uncomfortable lying flat in bed. Otherwise had 
no active complaints.  

 
Past Medical History:
- CVA (___) - L MCA distrubution, received tPA w/ no residual 
effect  
- DVTs  
- Right hip replacement  
- "Staph infection on her abdomen" x 15 months (goes to Wound 
clinic)  
- Hypertension  
- Peripheral neuropathy, followed by Dr. ___ at ___ 
___  
- Depression  
- Asthma  
- Bilateral cataracts  
- Mitral valve prolapse  

 
Social History:
___
Family History:
Both of her parents had strokes in their ___. Uncles with 
coronary artery disease. Sister with congestive heart failure.
 
Physical Exam:
VS - T 97.5 BP 148/79 HR 59 RR 16 O2 100% on RA  
Gen: Elderly female appears anxious with tears in her eyes  
HEENT: Traumatic laceration at bridge of nose with mild bleeding 
approx 1cm and hematoma over L eye. EOMI. Conjunctiva were pink, 
no pallor or cyanosis of the oral mucosa. No orbital or 
periorbital edema or bleeding.+ No OP lesions.  
Neck: Supple with JVP of 8 cm.  
CV: RRR, nl S1, S2, no murmurs or gallops  
Chest:Increased AP diameter. Resp were unlabored, no accessory 
muscle use. CTAB, no crackles, wheezes or rhonchi.  
Abd: Soft, NTND. No HSM or tenderness. No abdominial bruits. 
Dressing in place slightly inferior to umbilicus overlying small 
1cm round ulcerated lesion, no exudate or erythema. +umbilical 
hernia. normoactive BS  
Ext: No c/c/e. No femoral bruits. R groin site without hematoma, 
bleeding, or thrill  
Skin: No stasis dermatitis, ulcers, 2+ dp b/l  
Neuro: CNII-XII intact, cerebellar - finger to nose intact b/l, 
proprioception intact b/l. Reflexes 1+ upper and lower extrem 
b/l. decreased sensation to light touch to ___ way up legs 
(chronic secondary to peripheral nephropathy).  

 
Pertinent Results:
___ 10:45PM BLOOD WBC-6.0 RBC-3.44* Hgb-10.6* Hct-31.2* 
MCV-91 MCH-30.7 MCHC-33.8 RDW-12.5 Plt ___
___ 02:30PM BLOOD PTT-32.7
___ 04:45PM BLOOD ___
___ 10:45PM BLOOD Glucose-126* UreaN-26* Creat-0.8 Na-142 
K-3.7 Cl-103 HCO3-34* AnGap-9
___ 10:45PM BLOOD Calcium-8.8 Phos-3.0 Mg-2.2
.
Cardiac catheterization
1.  Selective coronary angiography of this right dominant system 

revealed no angiographically apparent flow-limiting stenoses.  
The LMCA, 
LAD, LCX, and RCA had no angiographically apparent obstructive 
disease. 
2.  Limited resting hemodynamics revealed elevated left sided 
filling 
pressures with LVEDP of 25 mm Hg.  There was severe systemic 
arterial 
hypertension of 171/93 mm Hg.  There was no transvalvular 
gradient upon 
pullback of the catheter from LV to the aorta. 
3.  Left ventriculography revealed a normal LVEF of 60% with 
normal wall 
motion.  There was no evident mitral regurgitation. 
.
EKG ___: Sinus rhythm. Occasional atrial premature beats. Right 
bundle-branch block. Compared to the previous tracing of ___ 
right bundle-branch block is new. 
.
CT Head: No evidence of intracranial hemorrhage or fracture.  
Small left 
frontal subcutaneous hematoma with soft tissue swelling is 
consistent with the recent history of falling. 
.
ECHO: The left atrium is normal in size. No atrial septal defect 
is seen by 2D or color Doppler. There is mild symmetric left 
ventricular hypertrophy. The left ventricular cavity is 
unusually small. Left ventricular systolic function is 
hyperdynamic (EF 80%). Tissue Doppler imaging suggests an 
increased left ventricular filling pressure (PCWP>18mmHg). There 
is no ventricular septal defect. Right ventricular chamber size 
and free wall motion are normal. The aortic root is mildly 
dilated at the sinus level. The aortic valve leaflets (3) are 
mildly thickened but aortic stenosis is not present. Mild (1+) 
aortic regurgitation is seen. The mitral valve leaflets are 
mildly thickened. There is mild mitral valve prolapse. Mild (1+) 
mitral regurgitation is seen. The tricuspid valve leaflets are 
mildly thickened. There is borderline pulmonary artery systolic 
hypertension. There is no pericardial effusion. 
.
Compared with the findings of the prior report (images 
unavailable for review) of ___, the left ventricle is 
now hyperdynamic.  
.
CXR PA & Lat: New pacemaker with leads in standard position.  
Mild bilateral lower lobe atelectasis.  No pneumothorax. 

  

  

 
Brief Hospital Course:
ASSESSMENT AND PLAN, AS REVIEWED AND DISCUSSED IN 
MULTIDISCIPLINARY ROUNDS  
Patient is a ___ yo female with past hx of CVA (___), DVT, and 
HTN presenting with 2 brief episodes of CP and syncopal event 
found to be in 2nd degree heart block (type II), s/p cath 
showing no significant CAD and s/p successful pacemaker 
placement ___.  
.  
#. CAD: The patient was brought urgently for cardiac 
catheterization which showed no significant occlusive coronary 
disease.  
.  
#. Syncope: The patient had an EKG at ___ 
immediately after her syncopal event which showed new 2nd degree 
heart block (type II). She was given atropine there with 
response. She was monitored on telemetry upon admission with no 
events. Her home dose of Coumadin was held and she was given 5mg 
of po vitamin K. One her INR was less than 2, she was brought 
for pacemaker placement on ___, which was successful. Chest 
X-ray confirmed proper lead placement.
.  
#. Hypertension: Pt's home dose of hydrochlorothiazide was 
continued.
.  
#. Head trauma: The patient underwent repeat CT Head upon 
admission for persistent headache and concern regarding Coumadin 
use at time of fall. She had no evidence of intracranial 
hemorrhage or facial fracture. A plastic surgery consult was 
obtained and steristrips placed over superficial lacteration on 
nasal bridge.
.  
#. She was seen by physical therapy after pacemaker placement 
and felt too unsteady initially. Repeat evaluation the next day 
was much improved and she was able to ambulate with her walker 
without difficulty and she was discharged home.
 
Medications on Admission:
- Gabapentin 300 mg po qhs (as needed)  
- Paroxetine HCl 30 mg po daily  
- Spiriva one cap daily  
- Fluticasone-Salmeterol 250-50 mcg/Dose bid  
- Warfarin 3mg 3x/week, 2mg 4x/week  
- Atenolol 25mg po daily  
- Hydrochlorothiazide 25mg po daily  

 
Discharge Medications:
1. Gabapentin 300 mg Capsule Sig: One (1) Capsule PO HS (at 
bedtime).  
2. Paroxetine HCl 30 mg Tablet Sig: One (1) Tablet PO once a 
day.  
3. Tiotropium Bromide 18 mcg Capsule, w/Inhalation Device Sig: 
One (1) Cap Inhalation DAILY (Daily).  
4. Fluticasone-Salmeterol 250-50 mcg/Dose Disk with Device Sig: 
One (1) Disk with Device Inhalation BID (2 times a day).  
5. Warfarin 3 mg Tablet Sig: One (1) Tablet PO 3x/week : take as 
previously directed.  
6. Warfarin 2 mg Tablet Sig: One (1) Tablet PO 4x/week: take as 
previously directed.  
7. Atenolol 25 mg Tablet Sig: One (1) Tablet PO once a day.  
8. Hydrochlorothiazide 25 mg Tablet Sig: One (1) Tablet PO once 
a day.  
9. Aspirin 81 mg Tablet Sig: One (1) Tablet PO once a day.  
10. Clindamycin HCl 150 mg Capsule Sig: Two (2) Capsule PO Q6H 
(every 6 hours) as needed for prophylaxis for 4 days: Last day 
___.
Disp:*32 Capsule(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
1.) Second degree AV-node conduction delay - type II
2.) Superficial laceration of nasal bridge
Secondary:
3.) Hypertension

 
Discharge Condition:
afebrile, displaying normal vital signs, no lightheadedness, 
tolerating po and walking with a walker

 
Discharge Instructions:
You were admitted to the hospital after you lost consciousness 
and hit your head. You had a CT of your head which showed no 
sign of bleeding or fracture. Your heart rhythm was found to be 
dangerously slow due to disease of the conducting system of your 
heart (regulates normal heart rate). You were monitored on a 
heart monitor and the pacemaker was placed successfully. For one 
week after pacemaker placement it is important that you do no 
lift anything heavier that 10lbs, do not shower (sponge bath 
okay), do not lift your arm over your head and avoid driving.
.
You should continue all of your home medications as previously 
prescribed. You also have a course of antibiotics (clindamycin) 
whih will be completed on ___.
.
Your Coumadin was stopped for a short time while you were in the 
hospital. You should go to your regular Coumadin provider on 
___ to have your INR checked.
.
If you experience lightheadedness, shortness of breath, chest 
pain, headache, unsteady gait, nausea, loss of consciousness, or 
if you feel worse in any way, seek immediate medical attention.
 
Followup Instructions:
___